US04172943
{[10-Hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea (VI)
A solution of 1.50 g. (0.011 mole) of chloroacetylurea in 25 ml. of dimethylformamide was added dropwise to a stirred solution of 3.57 g. (0.01 mole) of 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine in 20 ml. of dimethylformamide and 1.11 g. (0.011 mole) of triethylamine. After stirring for 24 hours, 65 ml. of water was added dropwise to the stirred mixture. The solid was filtered and recrystallized from acetonitrile, m.p. 131°-133°.

reactant | chloroacetylurea | 0.011 mole | ClCC(=O)NC(=O)N | C3H5ClN2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine | 0.01 mole | OC1=CC(=CC2=C1C=1CNCCC1C(O2)(C)C)C(C(CCCCC)C)C | C23H35NO2
reactant | triethylamine | 0.011 mole | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | {[10-Hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea | OC1=CC(=CC2=C1C=1CN(CCC1C(O2)(C)C)CC(=O)NC(=O)N)C(C(CCCCC)C)C | C26H39N3O4
